US07709481B2
25.0 g 1-Methyl-cyclohexanecarboxylic acid amide was suspended in 40 ml ethanol and warmed to 50° C. At this temperature 29.0 ml Ethyl 2-chloroacetoacetate were added and the reaction mixture heated under reflux overnight. The cooled reaction mixture was evaporated under reduced pressure and the resulting residue was purified by chromatography with the eluent petroleum ether:ethyl acetate=4:1 to obtain 21.0 g 4-Methyl-2-(1-methyl-cyclohexyl)-oxazole-5-carboxylic acid ethyl ester as an oil which solidifies upon standing.

reactant | 1-Methyl-cyclohexanecarboxylic acid amide | 25.0 g | CC1(CCCCC1)C(=O)N | C8H15NO
reactant | Ethyl 2-chloroacetoacetate | 29.0 ml | ClC(C(=O)OCC)C(=O)C | C6H9ClO3
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 4-Methyl-2-(1-methyl-cyclohexyl)-oxazole-5-carboxylic acid ethyl ester | 21.0 g | C(C)OC(=O)C1=C(N=C(O1)C1(CCCCC1)C)C | C14H21NO3
